US05496853
Synthesis of 2,2,6-trimethyl-2,3-dihydrobenzofuran-7-yl isocyanate
A 400 mg amount of 7-amino -2,2,6-trimethyl-2,3-dihydrobenzofuran was dissolved in 10 ml of carbon tetrachloride, and 246 mg of triphosgene was added thereto. The reaction solution was heated to 80° C., and 229 mg of triethylamine was slowly added thereto with stirring. Further, the mixture was heated under reflux for 1.5 hr. The reaction mixture was filtered through Celite to remove insolubles. The solvent was removed by evaporation to provide 461 mg of the title compound.

reactant | 7-amino -2,2,6-trimethyl-2,3-dihydrobenzofuran | NC1=C(C=CC=2CC(OC21)(C)C)C | C11H15NO
reactant | triphosgene | 246 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 229 mg | C(C)N(CC)CC | C6H15N
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,2,6-trimethyl-2,3-dihydrobenzofuran-7-yl isocyanate | 461 mg | CC1(OC2=C(C1)C=CC(=C2N=C=O)C)C | C12H13NO2
